* Daedalus spice export: divider
* subset: R C L V I D(Shockley) Q(NPN Ebers-Moll) M(NMOS Level-1) E G F H
* daed-temp=27 daed-tnom=27
* Cgs/Cgd MOSFET parasitics omitted (Daedalus .tran only)
vin 1 0 DC 5
r1 1 2 1000
r2 2 0 1000
.options tnom=28.555 temp=28.555 gmin=1e-12
.control
op
print v(1) v(2)
print i(vin)
.endc
.end
